US04284631
Conc.hydrochloric acid (1.6 ml.) was added to a solution of 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.1 g.) in methanol (30 ml.), and stirred at room temperature for 3.5 hours. After evaporating the solvent in vacuo, methanol was added to the residue and the mixture was evaporated in vacuo again. The residue was dissolved in water (30 ml.) and adjusted to pH 3.5 with a sodium bicarbonate saturated aqueous solution under ice-cooling. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (trademark, manufactured by Mitsubishi Chemical Industries Ltd.) and eluted with 30% aqueous isopropyl alcohol. The eluate was concentrated in vacuo and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)-acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.0 g.).

reactant | hydrochloric acid | 1.6 ml | Cl | ClH
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C21H26N6O8S2
solvent | methanol | 30 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)-acetamido]-3-cephem-4-carboxylic acid | 1.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCN | C15H18N6O5S2
